US09402841B2
Step C: 3-(6-chloro-4-methylpyridin-2-yl)-1H-1,2,4-triazol-5 (4H)-one
A mixture of 6-chloro-4-methylpicolinonitrile (3 g, 19.66 mmol) and ethyl hydrazinecarboxylate (8.19 g, 79 mmol) in NMP (6 mL) was heated in a sealed tube at 160° C. overnight. The residue was purified by column chromatography eluting with a gradient of 0-80% EtOAc in heptanes. The product-containing fractions were collected and evaporated in vacuo to give the title compound as a yellow semi-solid (428 mg). ESI-MS m/z [M+H]+211.6.

reactant | 6-chloro-4-methylpicolinonitrile | 19.66 mmol, 3 g | ClC1=CC(=CC(=N1)C#N)C | C7H5ClN2
reactant | ethyl hydrazinecarboxylate | 79 mmol, 8.19 g | N(N)C(=O)OCC | C3H8N2O2
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | 3-(6-chloro-4-methylpyridin-2-yl)-1H-1,2,4-triazol-5 (4H)-one | 428 mg | ClC1=CC(=CC(=N1)C1=NNC(N1)=O)C | C8H7ClN4O
